US04265723
Using a method similar to that described for compound XI, 80 parts of 1-methyl-1-cyclohexanecarboxylic acid chloride and 108 parts of methoxydiphenylphosphine, in the absence of a solvent, give 100 parts of 1-methyl-cyclohexanoyldiphenylphosphine oxide as an oily crude product, which is purified by chromatography over silica gel (using toluene as the migrating agent).

reactant | 1-methyl-1-cyclohexanecarboxylic acid chloride | CC1(CCCCC1)C(=O)Cl | C8H13ClO
reactant | methoxydiphenylphosphine | COP(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13OP
product | 1-methyl-cyclohexanoyldiphenylphosphine oxide | CC1(CCCCC1)C(=O)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C20H23O2P
